US06433359B1
A mixture of 21.69 g (60 mmol) of 1-bromo-3,7,11,15-tetramethylhexadecane and 25 g (150 mmol) of triethyl phosphite was heated at 150° C. After 18 h, an additional 20 g (120 mmol) of triethyl phosphite was added, and heating was continued for 24 h. Diethyl ethylphosphonate and other volatiles were distilled, bp 30-50° C. at 0.05 mm Hg, and bulb-to-bulb distillation of the concentrate provided 23.51 g (94%) of 1-(diethylphosphono)-3,7,11,15-tetramethylhexadecane as a clear, colorless liquid, bp 190-230° C. at 0.05 mm Hg.

reactant | 1-bromo-3,7,11,15-tetramethylhexadecane | 60 mmol, 21.69 g | BrCCC(CCCC(CCCC(CCCC(C)C)C)C)C | C20H41Br
reactant | triethyl phosphite | 150 mmol, 25 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | triethyl phosphite | 120 mmol, 20 g | P(OCC)(OCC)OCC | C6H15O3P
product | 1-(diethylphosphono)-3,7,11,15-tetramethylhexadecane | 23.51 g, 94% | C(C)OP(=O)(OCC)CCC(CCCC(CCCC(CCCC(C)C)C)C)C | C24H51O3P
